US08557983B2
4′-chloro-4-hydroxybiphenyl-2-carbaldehyde
2-bromo-5-hydroxybenzaldehyde (20 g), 4-chlorophenylboronic acid (17.1 g) and dichlorobis(triphenylphosphine) palladium(II) (1.75 g) were dissolved in 475 mL of a dimethoxyethane:ethanol:2M Na2CO3 solution (7:2:2). The mixture was heated to reflux for 1 hour. The reaction mixture was then diluted with ethyl acetate, washed thoroughly with water and with brine, dried over MgSO4, filtered and concentrated. The resulting solid was slurried in 500 mL of hexane:ether mixture (2:1). The title compound was collected by filtration.

reactant | 2-bromo-5-hydroxybenzaldehyde | 20 g | BrC1=C(C=O)C=C(C=C1)O | C7H5BrO2
reactant | 4-chlorophenylboronic acid | 17.1 g | ClC1=CC=C(C=C1)B(O)O | C6H6BClO2
reactant | ethanol | C(C)O | C2H6O
reactant | Na2CO3 | 2M | C(=O)([O-])[O-].[Na+].[Na+]
solvent | dimethoxyethane | 475 mL | C(OC)COC | C4H10O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4′-chloro-4-hydroxybiphenyl-2-carbaldehyde | ClC1=CC=C(C=C1)C=1C(=CC(=CC1)O)C=O | C13H9ClO2
